US04710507
A solution of 5-bromo-2-methoxypyridine (1.50 g) in tetrahydrofuran (THF) (10 cm3) was stirred at -70° under nitrogen during the addition of t-butyllithium (8.0 cm3 of a 2.0M solution in pentane). After 10 minutes a solution of anhydrous zinc chloride (1.09 g) in tetrahydrofuran (THF) (10 cm3) was added and the mixture was allowed to warm to room temperature over 1 hour. A suspension of 6-iodo-2-(1H)-quinolone (0.813 g) and tetrakis (triphenylphosphine) palladium(O) (0.03 g) in THF (10 cm3) was then added and the mixture was heated under reflux for 3 hours. Saturated ammonium chloride solution (1 cm3) was added to the cooled mixture followed by a solution of ethylenediaminetetraacetic acid disodium salt (6.0 g) in water (100 cm3). Chloroform (100 cm3) and methanol (30 cm3) were added and the mixture was warmed until all the solid material dissolved. The phases were separated, the aqueous layer was further extracted with chloroform:methanol 9:1 (3×50 cm3), and the combined and dried (MgSO4) extracts were concentrated in vacuo to afford a solid which was recrystallised from isopropanol to give 6-(2-methoxypyrid-5-yl)-2-(1H)-quinolone, m.p. 248°-252°, (0.56 g).

reactant | 5-bromo-2-methoxypyridine | 1.50 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | 6-iodo-2-(1H)-quinolone | 0.813 g | IC=1C=C2C=CC(NC2=CC1)=O | C9H6INO
reactant | ammonium chloride | 1 cm3 | [Cl-].[NH4+]
reactant | ethylenediaminetetraacetic acid disodium salt | 6.0 g | [Na+].[Na+].C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)O)CC(=O)O
solvent | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
solvent | THF | 10 cm3 | O1CCCC1 | C4H8O
solvent | water | 100 cm3 | O | H2O
catalyst | zinc chloride | 1.09 g | [Cl-].[Zn+2].[Cl-]
solvent | methanol | 30 cm3 | CO | CH4O
solvent | Chloroform | 100 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 6-(2-methoxypyrid-5-yl)-2-(1H)-quinolone | COC1=NC=C(C=C1)C=1C=C2C=CC(NC2=CC1)=O | C15H12N2O2
